US03941821
2-Chlorobiphenyl 57 g.
When ethyl oxalyl chloride in the above example is replaced with methyl oxalyl chloride, propyl oxalyl chloride, i-propyl oxalyl chloride, t-butyl oxalyl chloride, or benzyl oxalyl chloride then the product obtained is methyl 2'-chloro-4-biphenylylglyoxylate, propyl 2'-chloro-4-biphenylylglyoxylate, i-propyl 2'-chloro-4-biphenylylglyoxoylate, t-butyl 2'-chloro-4-biphenylylglyoxylate, or benzyl 2'-chloro-4-biphenylylglyoxylate.

reactant | methyl 2'-chloro-4-biphenylylglyoxylate | ClC1=C(C=CC=C1)C1=CC=C(C=C1)C(C(=O)OC)=O | C15H11ClO3
reactant | propyl 2'-chloro-4-biphenylylglyoxylate | ClC1=C(C=CC=C1)C1=CC=C(C=C1)C(C(=O)OCCC)=O | C17H15ClO3
reactant | t-butyl 2'-chloro-4-biphenylylglyoxylate | ClC1=C(C=CC=C1)C1=CC=C(C=C1)C(C(=O)OC(C)(C)C)=O | C18H17ClO3
reactant | benzyl 2'-chloro-4-biphenylylglyoxylate | ClC1=C(C=CC=C1)C1=CC=C(C=C1)C(C(=O)OCC1=CC=CC=C1)=O | C21H15ClO3
product | 2-Chlorobiphenyl | ClC1=C(C=CC=C1)C1=CC=CC=C1 | C12H9Cl
